US06815451B2
3-(2,3-Difluoro-phenyl)-propionic Acid
To a suspension of 2,3-difluoro-cinnamic acid (2.94 g, 16 mmol) in ethanol (100 mL) is added Pd (10% on carbon, 50 mg) and the mixture is treated with hydrogen (7.5 bar) for 15 h. The suspension is filtered through celite and the solvent evaporated to provide the title compound.

reactant | 2,3-difluoro-cinnamic acid | 16 mmol, 2.94 g | FC1=C(C=CC(=O)O)C=CC=C1F | C9H6F2O2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd | 50 mg | [Pd] | Pd
product | 3-(2,3-Difluoro-phenyl)-propionic Acid | FC1=C(C=CC=C1F)CCC(=O)O | C9H8F2O2
